US06949553B2
A THF (10 ml) solution of the (5S)-5-[(tert-butyldimethylsilyloxy)methyl]pyrrolidin-2-one (3.71 g, 16.2 mmols) was added dropwise to a THF (70 ml) suspension of NaH (60% oil disp. 778 mg, 19.4 mmols), with the system being cooled with ice, whereafter the mixture was stirred for 30 minutes at room temperature. To the mixture, MeI (5.0 ml, 81 mmols) was added during cooling with ice, and the mixture was stirred for 15 hours at room temperature. During cooling with ice, a saturated aqueous solution (50 ml) of NH4Cl was added, and the solvent was distilled off under reduced pressure. The residue was diluted with water, whereafter the dilution was extracted with AcOEt (50 ml×3), and the organic layer was dried over MgSO4. The solvent was distilled off under reduced pressure, and then the residue was subjected to silica gel column chromatography (SiO2 150 g, MeOH—CHCl3 3:97 v/v) to obtain (5S)-5-[(tert-butyldimethylsilyloxy)methyl]-1-methylpyrrolidin-2-one (3.86 g, 97.9%): [α]D29+3.46 (c 1.13, CHCl3). IR νmax (film) cm−1: 1682. 1H-NMR (CDCl3)δ: 3.73 (1H, dd, J=10.2, 3.3 Hz), 3.60 (1H, dd, J=10.2, 4.1 Hz), 3.55 (1H, quint, J=4.1 Hz), 2.85 (3H, s), 2.50-2.37 (1H, m), 2.35−2.23 (1H, m), 2.15-2.01 (1H, m), 1.89-1.77 (1H, m), 0.89 (9H, s), 0.06 (3H, s), 0.05 (3H, s). MS m/z: 228 (M+−15), 186, 98 (100%). HRMS: Calculated for C11H22NO2Si: 228.1420 (M+−15). Found: 228.1441 (M+−15).

reactant | (5S)-5-[(tert-butyldimethylsilyloxy)methyl]pyrrolidin-2-one | 16.2 mmols, 3.71 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CCC(N1)=O | C11H23NO2Si
reactant | NaH | 19.4 mmols, 778 mg | [H-].[Na+]
reactant | MeI | 81 mmols, 5.0 ml | CI | CH3I
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (5S)-5-[(tert-butyldimethylsilyloxy)methyl]-1-methylpyrrolidin-2-one | 3.86 g, 97.9% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1CCC(N1C)=O | C12H25NO2Si
